US09079910B2
Preparation of 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-(2-methoxyethoxy)-7H-pyrrolo[2,3-d]pyrimidine (“A1”)
1.5 195 mg (1.40 mmol) of potassium carbonate are added to a solution of 197 mg (0.56 mmol) of tert-butyl 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-(2-methoxy-ethoxy)pyrrolo[2,3-d]pyrimidine-7-carboxylate in 2.8 ml of methanol, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is adsorbed onto kieselguhr and chromatographed on a silica-gel column with dichloromethane/methanol/ammonia water as eluent: 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-(2-methoxyethoxy)-7H-pyrrolo[2,3-d]pyrimidine (“A1”) as colourless crystals; m.p. 240° C.;

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-(2-methoxy-ethoxy)pyrrolo[2,3-d]pyrimidine-7-carboxylate | 0.56 mmol, 197 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C=2N=CN=C(C21)OCCOC)C(=O)OC(C)(C)C | C23H26N6O4
solvent | methanol | 2.8 ml | CO | CH4O
product | 5-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-(2-methoxyethoxy)-7H-pyrrolo[2,3-d]pyrimidine | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CNC=2N=CN=C(C21)OCCOC | C18H18N6O2
